Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.97947929936
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.8287730977
[H:1][O:2][C:3][C:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],1.62411378947
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[O:1][C:2]#[C:3][O:4],7.001366898089999
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.80650147133
[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-6.04170549017
[C:7]([H:8])([H:11])[H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:9][H:10]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-1.50560872563
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],1.95602597706
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.47882203002
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.676571936
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],3.53979562393
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],1.73162690245
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],3.23171299541
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],0.995700157517
[C:2]=[O:5].[O:1]([C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[H:6]>>[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.57278561453
[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-7.72333007737
[H:1][C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])=[C:10][H:11].[H:6]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11],-4.12861311787
[H:3].[O:1]=[C:2][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.99276690366
[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.07196056871
[C:3](#[C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:6]([H:7])[H:8]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.81175819915
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-5.06940757679
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[O:2],2.06281614858
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.4952307656
[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.97154312504
[H:1][C:2]=[C:3]([H:4])[O:5][H:6]>>[C:3]([H:4])[O:5][H:6].[H:1][C:2],7.317204187030001
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],3.65419124724
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])=[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-1.7806955292400002
